US07888503B2
A 5 mL microwave tube was charged with 2-fluoro-5-bromobenzaldehyde (1 g) and ethylenediamine (3 mL). The mixture was heated to 140° C. for 300 s using microwave irradiation. The reaction was diluted with water and extracted with diethyl ether. The organics were extracted with 1N HCl, and the pH of the aqueous layer was adjusted to ˜8 with 2.5M NaOH. The basic water layer was extracted again with diethyl ether. The organics were dried over magnesium sulfate, filtered and concentrated to dryness. Reconcentration from diethyl ether afforded 7-bromo-2,3-dihydro-1H-1,4-benzodiazepine as a yellow crystalline solid. H1 NMR (d6-dmso): 8.04 (s, 1H), 7.46 (d, 1H), 7.19 (dd, 1H), 7.07 (br t, 1H), 6.64 (d, 1H), 3.82 (m, 2H), 3.17 (m, 2H). Mass (ES+)=225.0 (100%).

reactant | 2-fluoro-5-bromobenzaldehyde | 1 g | FC1=C(C=O)C=C(C=C1)Br | C7H4BrFO
reactant | ethylenediamine | 3 mL | C(CN)N | C2H8N2
solvent | water | O | H2O
product | 7-bromo-2,3-dihydro-1H-1,4-benzodiazepine | BrC=1C=CC2=C(C=NCCN2)C1 | C9H9BrN2
